US05922724
4-acetyl-2-nitro-N-(3-(3-pyridyl)-phenyl)-aniline (2 g, 6 mmol) is suspended in a mixture of ethanol (50 ml) and dichloromethane (10 ml) and is hydrogenated at ambient pressure using palladium (5% on activated carbon) as the catalyst. Filtration of the resulting solution through celite followed by evaporation of solvent leaves an oil which upon trituration with a mixture of diethylether and petroleumether (1:1) affords 1.46 g pure 5-acetyl-2-(3-(3-pyridyl)phenylamino)aniline (80%).

reactant | 4-acetyl-2-nitro-N-(3-(3-pyridyl)-phenyl)-aniline | 6 mmol, 2 g | C(C)(=O)C1=CC(=C(NC2=CC(=CC=C2)C=2C=NC=CC2)C=C1)[N+](=O)[O-] | C19H15N3O3
reactant | diethylether | C(C)OCC | C4H10O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | palladium | [Pd] | Pd
product | 5-acetyl-2-(3-(3-pyridyl)phenylamino)aniline | 1.46 g, 80% | C(C)(=O)C=1C=CC(=C(N)C1)NC1=CC(=CC=C1)C=1C=NC=CC1 | C19H17N3O
